US07230007B2
12.36 cm3 (87.65 mmol) of trifluoroacetic anhydride were added to 4.3 g (17.53 mmol) of 1-(isoquinolin-1-yl)-1H-pyrrolo[2,3-b]pyridine in 50 cm3 of dimethylformamide under an argon atmosphere at a temperature in the region of 20° C. After addition of the trifluoroacetic anhydride was completed, stirring was continued at a temperature in the region of 20° C. for 12 h and then the reaction mixture was concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 60° C. The residue was rapidly added to 70 cm3 of water, and sodium hydrogencarbonate was gradually added until a pH of 7–8 was reached. The solid that formed was filtered off, rinsed with 4 times 25 cm3 of water and then dried in a desiccator under reduced pressure (2.7 kPa) at a temperature in the region of 20° C. 5.31 g of 3-trifluoroacetyl-1-(isoquinolin-1-yl)-1H-pyrrolo[2,3-b]pyridine were thus obtained in the form of a brown solid melting at 210° C. which was used directly in the following stage.

reactant | trifluoroacetic anhydride | 87.65 mmol, 12.36 cm3 | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1-(isoquinolin-1-yl)-1H-pyrrolo[2,3-b]pyridine | 17.53 mmol, 4.3 g | C1(=NC=CC2=CC=CC=C12)N1C=CC=2C1=NC=CC2 | C16H11N3
solvent | dimethylformamide | 50 cm3 | CN(C=O)C | C3H7NO
product | 3-trifluoroacetyl-1-(isoquinolin-1-yl)-1H-pyrrolo[2,3-b]pyridine | 5.31 g | FC(C(=O)C1=CN(C2=NC=CC=C21)C2=NC=CC1=CC=CC=C21)(F)F | C18H10F3N3O
